US05162316
7-(N-Ethyl-N-hydroxyethylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine
In a similar manner to Example 31 reaction of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.40 g) and 2-(ethylamino)ethanol (0.64 g) in dichloromethane (12 ml) yielded the title compound, 137 mg, m.p. 141°-2° C. (recrystallised from isopropanol-ether).

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.40 g | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | 2-(ethylamino)ethanol | 0.64 g | C(C)NCCO | C4H11NO
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 7-(N-Ethyl-N-hydroxyethylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine | C(C)N(CCO)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C19H23N5O3
